US07851469B2
4-[4-(3-Phenyl-5-trifluoromethyl-isoxazol-4-yl)-imidazol-1-yl]-benzonitrile
As described for Example 4, 4-(1H-imidazol-4-yl)-3-phenyl-5-trifluoromethyl-isoxazole (90 mg, 0.32 mmol) was converted, using 4-fluorobenzonitrile instead of 4-fluorobenzotrifluoride, to the title compound (60 mg, 49%) which was obtained as a white solid. MS: m/e=381.2 [M+H]+.

reactant | 4-(1H-imidazol-4-yl)-3-phenyl-5-trifluoromethyl-isoxazole | 0.32 mmol, 90 mg | N1C=NC(=C1)C=1C(=NOC1C(F)(F)F)C1=CC=CC=C1 | C13H8F3N3O
reactant | 4-fluorobenzonitrile | FC1=CC=C(C#N)C=C1 | C7H4FN
product | 4-[4-(3-Phenyl-5-trifluoromethyl-isoxazol-4-yl)-imidazol-1-yl]-benzonitrile | 60 mg, 49% | C1(=CC=CC=C1)C1=NOC(=C1C=1N=CN(C1)C1=CC=C(C#N)C=C1)C(F)(F)F | C20H11F3N4O
